US08110687B2
To a solution of 2-[3-amino-5-(trifluoromethyl)phenyl]propan-2-ol (2.05 g, 9.35 mmol) in acetonitrile (110 mL), was added concentrated sulfuric acid (1.99 mL, 37.4 mol).The reaction was allowed to stir at rt for 72 h. Water was added and the pH was adjusted to 8 by the addition of saturated aq. Na2CO3. The mixture was extracted with EtOAc (2×) and the combined organic solutions were washed with water then brine, dried over Na2SO4, filtered and evaporated. The residue was triturated with DCM and the solid was collected. The filtrate was evaporated and further purified by column chromatography. The solid and column fractions were combined to give N-{1-[3-amino-5-(trifluoromethyl)phenyl]-1-methylethyl}acetamide (1.07 g, 44.0%). LCMS: (FA) ES+ 261.1.

reactant | 2-[3-amino-5-(trifluoromethyl)phenyl]propan-2-ol | 9.35 mmol, 2.05 g | NC=1C=C(C=C(C1)C(F)(F)F)C(C)(C)O | C10H12F3NO
reactant | sulfuric acid | 37.4 mol, 1.99 mL | S(O)(O)(=O)=O | H2O4S
reactant | Water | O | H2O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | acetonitrile | 110 mL | C(C)#N | C2H3N
product | N-{1-[3-amino-5-(trifluoromethyl)phenyl]-1-methylethyl}acetamide | 1.07 g, 44.0% | NC=1C=C(C=C(C1)C(F)(F)F)C(C)(C)NC(C)=O | C12H15F3N2O
